US08865713B2
Step B: 5-piperidin-1-yl-6-trifluoromethoxy-1H-benzoimidazole.
A mixture of 2-nitro-5-piperidin-1-yl-4-trifluoromethoxy-phenylamine (0.900 g, 2.94 mmol), sodium dithionite (2.67 g, 15.3 mmol), trimethyl orthoformate (8.72 mL, 79.6 mmol), DMF (8.56 mL), and acetic acid (1.45 mL) was heated in a sealed tube for 15 h at 100° C. The reaction mixture was cooled to 23° C. and partitioned between EtOAc (80 mL) and saturated aqueous NaHCO3 (80 mL). The organic layer was collected and the aqueous layer was extracted with EtOAc (2×80 mL). The combined organic layers were dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (0-15% MeOH/DCM) to yield the titled compound (0.589 g, 71%). MS (ESI/CI): mass calcd. for C13H14F3N3O, 285.1; m/z found, 286.1 [M+H]+.

reactant | 2-nitro-5-piperidin-1-yl-4-trifluoromethoxy-phenylamine | 2.94 mmol, 0.900 g | [N+](=O)([O-])C1=C(C=C(C(=C1)OC(F)(F)F)N1CCCCC1)N | C12H14F3N3O3
reactant | sodium dithionite | 15.3 mmol, 2.67 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | trimethyl orthoformate | 79.6 mmol, 8.72 mL | C(OC)(OC)OC | C4H10O3
reactant | DMF | 8.56 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 1.45 mL | C(C)(=O)O | C2H4O2
product | 5-piperidin-1-yl-6-trifluoromethoxy-1H-benzoimidazole | 0.589 g, 71% | N1(CCCCC1)C1=CC2=C(NC=N2)C=C1OC(F)(F)F | C13H14F3N3O
